US07560445B2
The solution of dimethyl dithiophosphoric acid was added to diethyl maleate (the ratio of dimethyl dithiophosphoric acid to diethyl maleate was approximately 1-1.25 kg: 1.2 kg). Hydroquinone (approximately 3 grams) was added to the mixture. The reaction mixture which contains two separate solutions, an organic solution of diethyl maleate and an aqueous solution of dimethyl dithiophosphoric acid, was mixed for about 8 hours at 53° C. under a nitrogen atmosphere. After mixing, the reaction was cooled to ambient temperature and the organic and aqueous solutions were separated. The organic or diethyl maleate solutions which contained malathion was washed two (2) times with water (approximately 1 liter each time). The organic and aqueous solutions were separated and the malathion in the solution of diethyl maleate retained. This reaction yielded approximately 1.5-1.9 kg of malathion.

reactant | dimethyl dithiophosphoric acid | COP(S)(OC)=S | C2H7O2PS2
reactant | diethyl maleate | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | Hydroquinone | approximately 3 grams | C1(O)=CC=C(O)C=C1 | C6H6O2
product | malathion | approximately 1.5-1.9 kg | CCOC(=O)CC(C(=O)OCC)SP(=S)(OC)OC | C10H19O6PS2
